US08242133B2
To a mixture of 3.69 g of nicotinic acid and 30 ml of toluene, 3.64 g of diisopropylethylamine, then 8.67 g of diphenylphosphoryl azide was added. The reaction mixture was stirred at room temperature for 30 minutes. To the reaction mixture, 4 ml of tert-butyl alcohol was added. The reaction mixture was stirred while heating at 80° C. for six hours. The reaction mixture was cooled to room temperature, then the reaction mixture was diluted with ethyl acetate, washed with water and then with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was washed with a mixture solvent of ethyl acetate and hexane to give 4.07 g of 3-(tert-butoxycarbonyl amino)pyridine.

reactant | nicotinic acid | 3.69 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | diisopropylethylamine | 3.64 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl azide | 8.67 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tert-butyl alcohol | 4 ml | C(C)(C)(C)O | C4H10O
product | 3-(tert-butoxycarbonyl amino)pyridine | 4.07 g | C(C)(C)(C)OC(=O)NC=1C=NC=CC1 | C10H14N2O2
